US07569578B2
(±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-phenethyl-1H-imidazol-2-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (25 mg, 0.53 mmol), (2-bromoethyl)benzene (7.5 μL, 0.056 mmol, 1.05 equiv), and potassium carbonate (14.7 mg, 0.106 mmol) were combined in dimethylformamide (1.0 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 9.0 mg (29%). Mass spec.: 576.5 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.53 mmol, 25 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | (2-bromoethyl)benzene | 0.056 mmol, 7.5 μL, 1.05 equiv | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 0.106 mmol, 14.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-phenethyl-1H-imidazol-2-yl)ethylcarbamate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C=1N(C=CN1)CCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C32H45N5O3Si
